US04632925
Preparation of 5-[6-[4-(2,2-Diphenylethenyl)-1-piperidinyl]hexyl]pyrimidine
The title compound was prepared in a manner similar to that employed for the compound of Example 23 starting with 7.4 g of 4-(2,2-diphenylethenyl)piperidine and 5.9 g of 5-(6-chlorohexyl)pyrimidine, from 5-pyrimidinehexanol. Chromatography provided 5.9 g (50%) of crude 5-[6-[4-(2,2-diphenylethenyl)-1-piperidinyl]hexyl]pyrimidine. Crystallization from hexane provided the analytically pure 5-[6-[4-(2,2-diphenylethenyl)-1-piperidinyl]hexyl]pyrimidine, mp 88°-90° C. Analysis Calculated for C29H35N3 : C, 81.84; H, 8.29; N, 9.87. Found: C, 81.90; H, 8.31; N, 9.78.

reactant | 4-(2,2-diphenylethenyl)piperidine | 7.4 g | C1(=CC=CC=C1)C(=CC1CCNCC1)C1=CC=CC=C1 | C19H21N
reactant | 5-(6-chlorohexyl)pyrimidine | 5.9 g | ClCCCCCCC=1C=NC=NC1 | C10H15ClN2
reactant | 5-pyrimidinehexanol | N1=CN=CC(=C1)CCCCCCO | C10H16N2O
product | 5-[6-[4-(2,2-diphenylethenyl)-1-piperidinyl]hexyl]pyrimidine | 5.9 g, 50% | C1(=CC=CC=C1)C(=CC1CCN(CC1)CCCCCCC=1C=NC=NC1)C1=CC=CC=C1 | C29H35N3
